US08247421B2
Step 5: Benzyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate
Benzyl 3-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate (3.51 g, 7.02 mmol) in dry dioxane (35 mL) was treated with bis(pinacolato)diboron (2.14 g, 8.42 mmol, 1.2 Eq) and potassium acetate (2.06 g, 98.15 mmol, 3.0 Eq), the reaction mixture was degassed and stirred under nitrogen for 20 minutes and then treated with Pd(PPh3)4 (0.811 g, 0.70 mmol, 0.1 Eq). The mixture was degassed and heated at reflux under nitrogen for 2 hours. The mixture was partitioned between EtOAc and sat. aq. ammonium chloride, the organic layer was separated, washed with brine, dried over magnesium sulphate and evaporated to dryness. The residue was filtered through a plug of Florisil eluting with 50% EtOAc/Petroleum ether and the resultant solid triturated with EtOAc to give the title compound as an off-white solid (2.805 g, 73%).

reactant | Benzyl 3-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate | 7.02 mmol, 3.51 g | BrC1=CN(C2=NC=C(C=C21)NC(OCC2=CC=CC=C2)=O)S(=O)(=O)C2=CC=C(C)C=C2 | C22H18BrN3O4S
reactant | bis(pinacolato)diboron | 8.42 mmol, 2.14 g, 1.2 Eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 98.15 mmol, 2.06 g, 3.0 Eq | C(C)(=O)[O-].[K+]
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.70 mmol, 0.811 g, 0.1 Eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate | 2.805 g, 73% | CC1(OB(OC1(C)C)C1=CN(C2=NC=C(C=C21)NC(OCC2=CC=CC=C2)=O)S(=O)(=O)C2=CC=C(C)C=C2)C | C28H30BN3O6S
